US07253196B2
2-(Bicyclo[2.2.1]heptan-2-ylamino)-5,5-bis(2-hydroxyethyl)thiazol-4(5H)-one
A mixture of 2-(bicyclo[2.2.1]heptan-2-ylamino)-5,5-bis(2-(tert-butyldimethylsilyloxy)ethyl)thiazol-4(5H)-one (771 mg, 1.46 mmol) in 15 mL of a 1% HCl solution in ethanol was stirred at room temperature for 3 h. The reaction mixture was then concentrated in vacuo. Flash column chromatography (silica gel, 0-8% MeOH—CH2Cl2) afforded the title compound as a colorless thin film (390 mg). MS (ESI, pos. ion) m/z: 299 (M+H).

reactant | 2-(bicyclo[2.2.1]heptan-2-ylamino)-5,5-bis(2-(tert-butyldimethylsilyloxy)ethyl)thiazol-4(5H)-one | 1.46 mmol, 771 mg | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)(CCO[Si](C)(C)C(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C26H50N2O3SSi2
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-(Bicyclo[2.2.1]heptan-2-ylamino)-5,5-bis(2-hydroxyethyl)thiazol-4(5H)-one | C12C(CC(CC1)C2)NC=2SC(C(N2)=O)(CCO)CCO | C14H22N2O3S
